US05516774
N-[4-(7-Methoxy-5H-imidazo[2,1-c][1,4]benzodiazepin-10(11H]-ylcarbonyl]phenyl]-2-methylbenzamide
As described for Example 125 a mixture of 1.0 mmol of 7-methoxy-10,11-dihydro-5H-imidazo[2,1-c][1,4]-benzodiazepine, 1.1 mmol of 4-[(2-methylbenzoyl)amino]-benzoyl chloride and 1.5 mmol of triethylamine in 10 ml of dichloromethane is stirred for 3 hours at room temperature and worked up to give the product as a solid.

reactant | 7-methoxy-10,11-dihydro-5H-imidazo[2,1-c][1,4]-benzodiazepine | 1.0 mmol | COC=1C=CC2=C(CN3C(CN2)=NC=C3)C1 | C12H13N3O
reactant | 4-[(2-methylbenzoyl)amino]-benzoyl chloride | 1.1 mmol | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-(7-Methoxy-5H-imidazo[2,1-c][1,4]benzodiazepin-10(11H]-ylcarbonyl]phenyl]-2-methylbenzamide | COC=1C=CC2=C(CN3C(CN2C(=O)C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=NC=C3)C1 | C27H24N4O3
